US05153214
To a solution of methyl 4(R)-[3-(3-pyridyl)propyl]-8-(benzyloxy)octanoate (1.67 g, 4.2 mmol) in ethanol (30 ml) is added 20% palladium hydroxide on carbon (0.43 g) followed by cyclohexene (15.6 ml). The mixture is refluxed for 25 hours and then filtered to remove the catalyst. The catalyst is washed with ethanol, the combined filtrate is evaporated, and the residue is purified by flash chromatography on silica gel using 9:1 ethyl acetate/hexane to obtain methyl (R)-8-hydroxy-4-[3-(3-pyridyl)propyl]octanoate; IR (CH2Cl2): 3617, 1732, 1197, 1174, 1027 cm- 1.

reactant | methyl 4(R)-[3-(3-pyridyl)propyl]-8-(benzyloxy)octanoate | 4.2 mmol, 1.67 g | N1=CC(=CC=C1)CCC[C@@H](CCC(=O)OC)CCCCOCC1=CC=CC=C1 | C24H33NO3
reactant | cyclohexene | 15.6 ml | C1=CCCCC1 | C6H10
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.43 g | [OH-].[OH-].[Pd+2]
product | methyl (R)-8-hydroxy-4-[3-(3-pyridyl)propyl]octanoate | OCCCC[C@H](CCC(=O)OC)CCCC=1C=NC=CC1 | C17H27NO3
